US08071607B2
Compound 25A. Butane-1-sulfonic acid [3-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide
Title compound 11B, 1-(3-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (40 mg, 1.0 eq, 0.18 mmol), 1-butanesulphonylchloride (23 μl, 1.0 eq, 0.18 mmol) and pyridine (14 μl, 1.0 eq, 0.18 mmol) were added to DMF (1 ml) and the mixture was stirred for 42 hours at room temperature under an inert atmosphere. Methanol was then added (1 ml) and the solvents were removed in vacuo. The resultant residue was absorbed onto silica and purified by column chromatography using DCM/MeOH (96:4) as eluent to yield the title compound as a white solid (35 mg, 0.10 mmol, 57%). LCMS: [M+H]+=347, Rt=1.62 min, 100% purity.

reactant | 1-(3-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.18 mmol, 40 mg, 1.0 eq | NC=1C=C(C=CC1)N1N=CC=2C1=NC=NC2N | C11H10N6
reactant | 1-butanesulphonylchloride | 0.18 mmol, 23 μl, 1.0 eq | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | pyridine | 0.18 mmol, 14 μl, 1.0 eq | N1=CC=CC=C1 | C5H5N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | Methanol | CO | CH4O
product | Butane-1-sulfonic acid [3-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide | 0.10 mmol, 35 mg, 57% | NC1=C2C(=NC=N1)N(N=C2)C=2C=C(C=CC2)NS(=O)(=O)CCCC | C15H18N6O2S
